US05849781
STAGE A: DIETHYL 2-[(1-NAPHTHYL)METHYL]-2-ACETAMIDOMALONATE Procedure:
Sodium (28 mmol; 0.64 g) is introduced into 50 cm3 of absolute ethanol, under inert atmosphere. At 0° C., diethyl 2-acetamidomalonate (28 mmol; 6.08 g) dissolved in 35 cm3 of absolute ethanol is added, followed by dropwise addition, with a syringe, of (1-naphthyl)methyl chloride (28 mmol; 4.1 cm3). The mixture is maintained at reflux until the starting material has disappeared (6 h, then overnight at room temperature and then 2 h at reflux). The reaction medium is poured onto a KHSO4 (0.05M; 240 cm3)/hexane (120 cm3) mixture and stirred vigorously. A white precipitate, which is the expected malonic derivative, is recovered.

reactant | Sodium | 28 mmol, 0.64 g | [Na] | Na
reactant | diethyl 2-acetamidomalonate | 28 mmol, 6.08 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | (1-naphthyl)methyl chloride | 28 mmol, 4.1 cm3 | C1(=CC=CC2=CC=CC=C12)CCl | C11H9Cl
reactant | KHSO4 | 0.05M, 240 cm3 | OS(=O)(=O)[O-].[K+]
solvent | ethanol | 35 cm3 | C(C)O | C2H6O
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
solvent | hexane | 120 cm3 | CCCCCC | C6H14
product | DIETHYL 2-[(1-NAPHTHYL)METHYL]-2-ACETAMIDOMALONATE | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C20H23NO5
